US07579470B2
1-Benzyl-3-(4-chloro-phenyl)-1,4,6,7-tetrahydro-indazol-5-one oxime. A solution of 3.87 g of the compound from step G in 80 mL of THF with 5 mL of 1 M HCl was heated at reflux for 16 h. The volatiles were removed in vacuo and water was added (300 mL). The mixture was adjusted to pH 9 by the addition of 1 M NaOH and then was extracted with CH2Cl2. The combined extracts were washed with brine and the solvent was removed in vacuo to provide 1-benzyl-3-(4-chloro-phenyl)-1,4,6,7-tetrahydro-indazol-5-one. This product (3.13 g) was treated with hydroxylamine hydrochloride (3.0 g) in 20 mL of pyridine. The reaction mixture was stirred at RT for 14 h then was diluted with water (300 mL), and stirred an additional hour. The mixture was filtered on paper and the solids were washed with EtOAc and dried in vacuo to afford 2.48 g of the desired compound. 1H NMR (500 MHz, acetone-d6): 10.24 (s, 1H), 7.30-7.26 (m, 2H), 7.06-7.02 (m, 2H), 6.91-9.87 (m, 2H), 6.85-6.81 (m, 1H), 6.77-6.73 (m, 2H), 4.87 (s, 2H), 3.21 (s, 2H), 2.31 (t, J=6.6 Hz, 2H), 2.09 (t, J=6.6 Hz, 2H).

reactant | 1-Benzyl-3-(4-chloro-phenyl)-1,4,6,7-tetrahydro-indazol-5-one oxime | C(C1=CC=CC=C1)N1N=C(C=2CC(CCC12)=NO)C1=CC=C(C=C1)Cl | C20H18ClN3O
reactant | HCl | 1 M, 5 mL | Cl | ClH
reactant | THF | 80 mL | C1CCOC1 | C4H8O
product | 1-benzyl-3-(4-chloro-phenyl)-1,4,6,7-tetrahydro-indazol-5-one | C(C1=CC=CC=C1)N1N=C(C=2CC(CCC12)=O)C1=CC=C(C=C1)Cl | C20H17ClN2O
